** sch_path: /home/eamtastudent/EAMTA2026-VLSI/design/blocks/puertaxor/puertaxor.sch
**.subckt puertaxor Vdd A B Z vss
*.iopin A
*.iopin B
*.iopin vss
*.iopin Z
*.iopin Vdd
XM1 Z A net1 Vdd sg13_lv_pmos w=0.15u l=0.13u ng=1
XM2 net1 bb Vdd Vdd sg13_lv_pmos w=0.15u l=0.13u ng=1
XM3 Vdd net4 net1 Vdd sg13_lv_pmos w=0.15u l=0.13u ng=1
XM4 net1 B Z Vdd sg13_lv_pmos w=0.15u l=0.13u ng=1
XM5 Z ab net2 vss sg13_lv_nmos w=0.15u l=0.13u ng=1
XM6 net2 bb vss vss sg13_lv_nmos w=0.15u l=0.13u ng=1
XM7 net3 A Z vss sg13_lv_nmos w=0.15u l=0.13u ng=1
XM8 vss B net3 vss sg13_lv_nmos w=0.15u l=0.13u ng=1
XM9 ab A Vdd Vdd sg13_lv_pmos w=0.15u l=0.13u ng=1
XM10 ab A vss vss sg13_lv_nmos w=0.15u l=0.13u ng=1
XM11 bb B Vdd Vdd sg13_lv_pmos w=0.15u l=0.13u ng=1
XM12 bb B vss vss sg13_lv_nmos w=0.15u l=0.13u ng=1
**.ends
.end
